US04616090
2.41 g of 2-(4-hydroxy-2-methoxyphenyl)imidazo-(4,5-b)pyridine [hydrochloride, m.p. 255°; obtainable by condensation of II with 4-benzyloxy-2-methoxybenzoic acid (m.p. 130°) to give (2-(4-benzyloxy-2-methoxyphenyl)-imidazo(4,5-b)pyridine (hydrochloride, m.p. 244°) and subsequent hydrogenolysis] is dissolved in the calculated amount of 2N sodium hydroxide solution, the solution is concentrated and residual water is removed by twice adding toluene and concentrating. The Na salt obtained is taken up to 300 ml of dimethylformamide, treated with 8 ml of propargyl chloride and stirred at 20° for 16 hours. The mixture is worked up as usual with water and ethyl acetate and "M" is obtained.

reactant | 2-(4-hydroxy-2-methoxyphenyl)imidazo-(4,5-b)pyridine | 2.41 g | OC1=CC(=C(C=C1)C=1NC=2C(=NC=CC2)N1)OC | C13H11N3O2
reactant | hydrochloride | Cl | ClH
reactant | 4-benzyloxy-2-methoxybenzoic acid | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1)OC | C15H14O4
product | 2-(4-benzyloxy-2-methoxyphenyl)-imidazo(4,5-b)pyridine | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C=1NC=2C(=NC=CC2)N1)OC | C20H17N3O2
